US08461083B2
In a similar procedure, N-(6-methylpyridin-2-yl)-2,2-dimethylpropionamide was prepared from 2-amino-6-methylpyridine. 1H NMR (CDCl3) δ: 8.02-8.04 (1H, d), 7.95 (1H, broad s), 7.54-7.60 (1H, t), 6.86-6.88 (1H, d), 2.44 (3H, s), 1.31 (9H, s). Similarly, N-(5-fluoro-6-methylpyridin-2-yl)-2,2-dimethylpropionamide was prepared from 2-amino-5-fluoro-6-methylpyridine. 1H NMR (CDCl3) δ: 8.02 (1H, dd), 7.95 (1H, broad s), 7.35 (1H, t), 2.44 (3H, d), 1.32 (9H, s).

reactant | N-(6-methylpyridin-2-yl)-2,2-dimethylpropionamide | CC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H16N2O
reactant | 2-amino-6-methylpyridine | NC1=NC(=CC=C1)C | C6H8N2
reactant | 2-amino-5-fluoro-6-methylpyridine | NC1=NC(=C(C=C1)F)C | C6H7FN2
product | N-(5-fluoro-6-methylpyridin-2-yl)-2,2-dimethylpropionamide | FC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C11H15FN2O
